US05416118
Step B Add KCN (11.27 g, 0.173 mol) in water (25 mL) to a 100° C. solution of 4'-methoxychalcone (27.51 g 0.115 mol) and HOAc (7.5 mL, 0.128 mol) in 2-methoxyethanol (200 mL). The reaction is complete in <10 min. Cool the resulting solution to room temperature and pour into a mixture of ice and water (1 L). Extract the mixture with EtOAc. Combine the organic extracts, wash with water and brine, dry over Na2SO4, filter and concentrate in vacuo. Recrystallize the resulting solid from CH2Cl2 /MeOH to provide 23.07 g (75%) of 2-(4'-methoxyphenyl)-4-phenyl-3-oxobutyronitrile, mp 115°-116° C.

reactant | KCN | 0.173 mol, 11.27 g | [C-]#N.[K+]
reactant | 4'-methoxychalcone | 0.115 mol, 27.51 g | COC1=CC=C(C(C=CC2=CC=CC=C2)=O)C=C1 | C16H14O2
reactant | HOAc | 0.128 mol, 7.5 mL | CC(=O)O | C2H4O2
solvent | water | 25 mL | O | H2O
solvent | 2-methoxyethanol | 200 mL | COCCO | C3H8O2
solvent | water | 1 L | O | H2O
product | 2-(4'-methoxyphenyl)-4-phenyl-3-oxobutyronitrile | 23.07 g, 75% | COC1=CC=C(C=C1)C(C#N)C(CC1=CC=CC=C1)=O | C17H15NO2
